US05296601
Production of 4-isopropylphenyl 2-trifluoromethylbenzoate
In an autoclave made of a metal were placed 45.13 g of ortho-chlorobenzotrifluoride, 6.8 g of paraisopropylphenol, 88.5 mg of palladium chloride, 213 mg of 1,4-bisdiphenylphosphinobutane and 5.3 g of sodium carbonate. The air in the autoclave was replaced with carbon monoxide introduced thereinto in several times, after which carbon monoxide was further introduced to adjust its pressure therein to 30 kg/cm2. The internal temperature was adjusted to 190° C. on a salt bath and the reaction was carried out thereon with stirring for 4 hours.

reactant | ortho-chlorobenzotrifluoride | 45.13 g | ClC1=C(C=CC=C1)C(F)(F)F | C7H4ClF3
reactant | paraisopropylphenol | 6.8 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | 1,4-bisdiphenylphosphinobutane | 213 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | sodium carbonate | 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium chloride | 88.5 mg | [Pd](Cl)Cl
product | 4-isopropylphenyl 2-trifluoromethylbenzoate | FC(C1=C(C(=O)OC2=CC=C(C=C2)C(C)C)C=CC=C1)(F)F | C17H15F3O2
